US08877975B2
(a) (R)—N-(1-(1-(3,4-dichlorophenyl)cyclohexyl)-3-(1,3-dioxan-2-yl)propyl)-2-methylpropane-2-sulfinamide
A flame dried flask under N2 was charged with anhydrous Et2O (5 mL) and (1,3-Dioxan-2-ylethyl)-magnesium bromide (0.5M in THF, 5.6 mL, 2.8 mmol) and cooled to −78° C. (R,E)-N-((1-(3,4-dichlorophenyl)cyclohexyl)methylene)-2-methylpropane-2-sulfinamide (460 mg, 1.28 mmol) in anhydrous Et2O (3 mL) was added dropwise and the solution was stirred at −78° C. for 1 h, then allowed to warm to RT overnight. After 20 h sat'd aqueous Na2SO4 solution (4 mL) was added and the suspension was filtered, dried (Na2SO4), filtered and concentrated. Purification on the Biotage with a 25M column and an ethyl acetate/hexane (0.1% DEA) gradient (0→100% EtOAc over 3 CV, hold at 100% EtOAc for 5 CV) gave the pure title compound (300 mg, 49%) as a clear oil. HPLC Rt=2.62 min; 1H NMR (400 MHz, CDCl3) 7.45-7.43 (m, 2H), 7.24-7.22 (d, J=8.43 Hz, 1H), 4.44-4.42 (m, 1H), 4.11-4.04 (m, 2H), 3.75-3.67 (m, 2H), 3.11-3.01 (m, 2H), 2.64 (d, J=12.8 Hz, 1H), 2.27 (d, J=13.9 Hz, 1H), 2.04-1.99 (m, 1H), 1.88-1.44 (m, 8H), 1.33-1.19 (m, 12H), 0.93-0.80 (m, 1H); 13C NMR (100 MHz, CDCl3) 141.8, 132.7, 130.8, 130.4, 130.2, 128.4, 101.7, 66.8, 66.3, 57.1, 46.2, 34.3, 32.5, 26.1, 25.7 (d), 23.1, 22.2, 21.8; LC-MS 10.5 min, (M+1)+476 @10.6 min.

reactant | (1,3-Dioxan-2-ylethyl)-magnesium bromide | 2.8 mmol, 0.5M, 5.6 mL | O1C(OCCC1)CC[Mg]Br
reactant | (R,E)-N-((1-(3,4-dichlorophenyl)cyclohexyl)methylene)-2-methylpropane-2-sulfinamide | 1.28 mmol, 460 mg | ClC=1C=C(C=CC1Cl)C1(CCCCC1)\C=N\[S@](=O)C(C)(C)C | C17H23Cl2NOS
reactant | Na2SO4 | 4 mL | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | Et2O | 3 mL | CCOCC | C4H10O
solvent | Et2O | 5 mL | CCOCC | C4H10O
product | (R)—N-(1-(1-(3,4-dichlorophenyl)cyclohexyl)-3-(1,3-dioxan-2-yl)propyl)-2-methylpropane-2-sulfinamide | 300 mg, 49% | ClC=1C=C(C=CC1Cl)C1(CCCCC1)C(CCC1OCCCO1)N[S@](=O)C(C)(C)C | C23H35Cl2NO3S
